US06951879B2
365 mg (1.02 mmol) 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol in 7 ml CH2Cl2 were treated with 94 μl (1.21 mmol) methane sulfonic acid chloride, 0.13 ml (1.53 mmol) pyridine and 135 mg (1.2 mmol) DMAP at 0° C. The solution was stirred at RT over night, was diluted with water and acidified with 10% aq. KHSO4. The inorganic phase was extracted with CH2Cl2. The combined organic phases were washed with NaHCO3 solution, brine and dried over Na2SO4. Evaporation gave 446 mg crude Methanesulfonic acid 4-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl ester, MS: 436 (MH+).

reactant | 4-[3-(4-Bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-yn-1-ol | 1.02 mmol, 365 mg | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCO | C17H12BrNOS
reactant | methane sulfonic acid chloride | 1.21 mmol, 94 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | pyridine | 1.53 mmol, 0.13 ml | N1=CC=CC=C1 | C5H5N
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | CH2Cl2 | 7 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1.2 mmol, 135 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | Methanesulfonic acid 4-[3-(4-bromo-phenyl)-benzo[d]isothiazol-6-yl]-but-3-ynyl ester | 446 mg | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)C#CCCOS(=O)(=O)C | C18H14BrNO3S2
